US06051223
To a weakly acid solution containing single-chain t-PA and double-chain t-PA at a ratio of 15:85 were added 5 mg of sodium heparin, 26.1 mg of arginine and 14.7 mg ofsulfuric acid per 1 mg of t-PA (Example 7) or 5 mg of sodium chondroitin sulfate and 19.5 mg ethanolamine chloride per 1 mg of t-PA (Example 8), and the t-PA concentration was adjusted to 4 mg/ml and the pH of the resultant solution was adjusted to 7.5. Then the solution was diluted with physiological saline or a 5% glucose solution to give a t-PA concentration of 2.0 mg/ml to 5 micrograms/ml.

reactant | sodium heparin | 5 mg | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@@H]1O[C@H]2[C@@H]([C@H]([C@@H](O[C@@H]2C(=O)O)O[C@H]3[C@@H]([C@H]([C@H](O[C@@H]3O)O[C@H]4[C@@H]([C@H](C(O[C@H]4C(=O)O)O)OS(=O)(=O)O)O)OS(=O)(=O)O)CS(=O)(=O)O)O)O)COS(=O)(=O)O)O)O | C26H41NO34S4
reactant | arginine | 26.1 mg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | ethanolamine chloride | 19.5 mg | [Cl-].C(O)CN
product | glucose | 5% | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
